US05071995
Example 1 was repeated except that 59.2 g (200 mmoles) of the 2,4-dibromo-6-nitroaniline and 21.6 g (200 mmoles) of p-methylphenol were used instead of 36.4 g (200 mmoles) of 4-amino-3-nitrobenzoic acid and 27.6 g (200 mmoles) of p-hydroxybenzoic acid respectively to obtain 4,6-dibromo-2-(2'-hydroxy-5'-methylphenyl)benzotriazol. The yield was 60%.

reactant | 2,4-dibromo-6-nitroaniline | 200 mmoles, 59.2 g | BrC1=C(N)C(=CC(=C1)Br)[N+](=O)[O-] | C6H4Br2N2O2
reactant | p-methylphenol | 200 mmoles, 21.6 g | CC1=CC=C(C=C1)O | C7H8O
reactant | 4-amino-3-nitrobenzoic acid | 200 mmoles, 36.4 g | NC1=C(C=C(C(=O)O)C=C1)[N+](=O)[O-] | C7H6N2O4
reactant | p-hydroxybenzoic acid | 200 mmoles, 27.6 g | OC1=CC=C(C(=O)O)C=C1 | C7H6O3
product | 4,6-dibromo-2-(2'-hydroxy-5'-methylphenyl)benzotriazol | yield was 60% | BrC1=CC(=CC2=NN(N=C21)C2=C(C=CC(=C2)C)O)Br | C13H9Br2N3O
